US07041690B2
1N NaOH (100 μL) and H2O (500 μL) is added to a solution of (4Z)-2-(2-furyl)-4-[(5-phenyl-2-furyl)methylene]-1,3-oxazol-5(4H)-one (10 mg, 0.0327 mmol), prepared as described above, in acetone (1 mL). The reaction mixture is heated to 75° C. for one hour and then cooled to 25° C. The crude mixture is loaded onto a QAX column, which was pre-treated with MeOH. After 2 minutes the column is washed with MeOH and the product is eluted with 3% HCl/MeOH. Subsequently, the column is washed with MeOH (2 mL) and the combined washings are concentrated under reduced pressure to provide 9.5 mg of (2Z)-2-(2-furoylamino)-3-(5-phenyl-2-furyl)prop-2-enoic acid.

reactant | NaOH | 1N, 100 μL | [OH-].[Na+]
reactant | H2O | 500 μL | O | H2O
reactant | (4Z)-2-(2-furyl)-4-[(5-phenyl-2-furyl)methylene]-1,3-oxazol-5(4H)-one | 0.0327 mmol, 10 mg | O1C(=CC=C1)C=1OC(/C(/N1)=C/C=1OC(=CC1)C1=CC=CC=C1)=O | C18H11NO4
reactant | MeOH | CO | CH4O
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | (2Z)-2-(2-furoylamino)-3-(5-phenyl-2-furyl)prop-2-enoic acid | 9.5 mg | O1C(=CC=C1)C(=O)N\C(\C(=O)O)=C/C=1OC(=CC1)C1=CC=CC=C1 | C18H13NO5
